US05382379
4-(2'-(3",4",5"-Trifluorophenyl)ethenyl)cyclohexanone (71 g) was dissolved in ethanol (500 ml), followed by adding Pd/C (5%) (2.0 g), hydrogenating the compound in a hydrogen gas atmosphere with stirring till the hydrogen absorption was completed, filtering off the catalyst after completion of the reaction, and concentrating the solvent under reduced pressure, to obtain 4-(2'-(3",4",5"-trifluorophenyl)ethyl)cyclohexanone (70 g).

reactant | 4-(2'-(3",4",5"-Trifluorophenyl)ethenyl)cyclohexanone | 71 g | FC=1C=C(C=C(C1F)F)C=CC1CCC(CC1)=O | C14H13F3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | 4-(2'-(3",4",5"-trifluorophenyl)ethyl)cyclohexanone | 70 g | FC=1C=C(C=C(C1F)F)CCC1CCC(CC1)=O | C14H15F3O
